US07259177B2
(S)-2-((4-Methoxyphenoxycarbonyl)-{2-[cis-3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyl]ethyl}amino)-3-methylbutyric Acid
0.10 g of tert-butyl (S)-2-((4-methoxyphenoxycarbonyl)-{2-[cis-3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyl]ethyl}amino)-3-methylbutyrate are dissolved in 2 ml of dichloromethane, and the solution is stirred with 1 ml of trichloroacetic acid at RT overnight. The solvent is then removed completely and the residue is purified by preparative HPLC. This gives 15.6 mg of (S)-2-((4-methoxyphenoxycarbonyl)-{2-[cis-3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyl]ethyl}amino)-3-methylbutyric acid.

reactant | tert-butyl (S)-2-((4-methoxyphenoxycarbonyl)-{2-[cis-3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyl]ethyl}amino)-3-methylbutyrate | 0.10 g | COC1=CC=C(OC(=O)N([C@H](C(=O)OC(C)(C)C)C(C)C)CC[C@@H]2C[C@@H](CCC2)OCC=2N=C(OC2C)C=2C=C(C=CC2)C)C=C1 | C37H50N2O7
reactant | trichloroacetic acid | 1 ml | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (S)-2-((4-Methoxyphenoxycarbonyl)-{2-[cis-3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyl]ethyl}amino)-3-methylbutyric Acid | COC1=CC=C(OC(=O)N([C@H](C(=O)O)C(C)C)CC[C@@H]2C[C@@H](CCC2)OCC=2N=C(OC2C)C=2C=C(C=CC2)C)C=C1 | C33H42N2O7
